US05081255
2,5-bis[3,5-bis(hydroxyethylamino)-2,4,6-trinitrophenyl]-1,3,4-oxadiazole
A solution of 0.65 g (0.0106 mole) of ethanolamine in 40 ml of methanol was stirred in an ice bath while 1.55 g (0.00253 mole) of 2,5-bis(3,5-dimethoxy-2,4,6-trinitrophenyl)-1,3,4-oxadiazole was added. After 1 hr. at 0° C., the mixture was stirred for 5 hr. at room temperature before the insoluble solid (1.6 g, mp 230° C. dec.) was removed. The product was dissolved in dimethyl sulfoxide and methanol was added to give 1.4 g (76%), mp 237° C., 1H NMR (DMSO-d6 +D2O): 3.12 (m, 8H), 3.63 (m, 8H). Anal. Calcd. for C22H24N12O17 : C, 36.27; H, 3.32; N, 23.07. Found: C, 36.61; H, 3.32; N, 23.13.

reactant | ethanolamine | 0.0106 mole, 0.65 g | C(O)CN | C2H7NO
reactant | 2,5-bis(3,5-dimethoxy-2,4,6-trinitrophenyl)-1,3,4-oxadiazole | 0.00253 mole, 1.55 g | COC=1C(=C(C(=C(C1[N+](=O)[O-])OC)[N+](=O)[O-])C=1OC(=NN1)C1=C(C(=C(C(=C1[N+](=O)[O-])OC)[N+](=O)[O-])OC)[N+](=O)[O-])[N+](=O)[O-] | C18H12N8O17
solvent | methanol | 40 ml | CO | CH4O
product | 2,5-bis[3,5-bis(hydroxyethylamino)-2,4,6-trinitrophenyl]-1,3,4-oxadiazole | OCCNC=1C(=C(C(=C(C1[N+](=O)[O-])NCCO)[N+](=O)[O-])C=1OC(=NN1)C1=C(C(=C(C(=C1[N+](=O)[O-])NCCO)[N+](=O)[O-])NCCO)[N+](=O)[O-])[N+](=O)[O-] | C22H24N12O17
